US07105467B2
In a reaction flask was placed NiCl2(PCy3)2 (51.5 mg, 0.0746 mmol), PCy3 (44.4 mg, 0.0.1586 mmol), tridecane (195.7 mg, 1.0613 mmol, as an internal standard), and 2-methoxybiphenyl (247.3 mg, 1.344 mmol). The solvent in the Grignard reagent (1 M in ether, 4.0 mmol) was exchanged with t-AmOMe (6.0 mL) and this solution was added to the above catalyst mixture under a nitrogen atmosphere at room temperature. The resulting solution was stirred for several minutes at room temperature and then warmed to 60° C. for 1 hour, 75° C. for 1.5 h and then 100° C. for 15 h. A sample was withdrawn and quenched with an aqueous sodium citrate solution (1 M). The resulting aqueous layer was extracted with ethyl acetate. GC analysis of the organic phase showed the presence 4-methyl-1,1′:2′,1″-terphenyl (1.186 mmol, 88% yield) and 2-methoxybiphenyl (0.100 mmol) and bitoluene (0.431 mmol) in the reaction mixture.

reactant | PCy3 | 44.4 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | tridecane | CCCCCCCCCCCCC | C13H28
reactant | 2-methoxybiphenyl | 1.344 mmol, 247.3 mg | COC1=C(C=CC=C1)C1=CC=CC=C1 | C13H12O
reactant | bitoluene | 0.431 mmol | C=1(C(=CC=CC1)C=1C(=CC=CC1)C)C | C14H14
catalyst | 2-methoxybiphenyl | 0.100 mmol | COC1=C(C=CC=C1)C1=CC=CC=C1 | C13H12O
product | 4-methyl-1,1′:2′,1″-terphenyl | 1.186 mmol, 88% yield | CC1=CC=C(C=C1)C=1C(=CC=CC1)C1=CC=CC=C1 | C19H16
